US09359375B2
A mixture of tert-butyl (1S,2R)-2-(5-bromo-4-cyano-2-fluorophenylamino)cyclohexylcarbamate (165 mg, 0.400 mmol), 5-amino-3-phenylisoxazole (96 mg, 0.600 mmol), sodium phenoxide trihydrate (136 mg, 0.800 mmol), xantphos (30 mg, 0.051 mmol) and Pd2(dba)3 (30 mg, 0.032 mmol) in dioxane (2 mL) was degassed with Ar, then was heated at 170 C for 30 min by microwave. It was concentrated in vacuo. The residue was purified by HPLC to give tert-butyl (1S,2R)-2-(4-cyano-2-fluoro-5-(3-phenylisoxazol-5-ylamino)phenylamino)cyclohexylcarbamate (40 mg).

reactant | tert-butyl (1S,2R)-2-(5-bromo-4-cyano-2-fluorophenylamino)cyclohexylcarbamate | 0.400 mmol, 165 mg | BrC=1C(=CC(=C(C1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)F)C#N | C18H23BrFN3O2
reactant | 5-amino-3-phenylisoxazole | 0.600 mmol, 96 mg | NC1=CC(=NO1)C1=CC=CC=C1 | C9H8N2O
reactant | sodium phenoxide trihydrate | 0.800 mmol, 136 mg | O.O.O.[O-]C1=CC=CC=C1.[Na+]
reactant | xantphos | 0.051 mmol, 30 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.032 mmol, 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl (1S,2R)-2-(4-cyano-2-fluoro-5-(3-phenylisoxazol-5-ylamino)phenylamino)cyclohexylcarbamate | 40 mg | C(#N)C1=CC(=C(C=C1NC1=CC(=NO1)C1=CC=CC=C1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)F | C27H30FN5O3
